US06410562B1
Step A: 2-(4-Methylphenyl)-5-trifluoromethoxy-1H-indole
To a stirred solution of 5.3 g (30 mmol) of 4-trifluoromethoxyaniline in 8 ml of N,N-diethylaniline was added dropwise at 165° C. a solution of 4.3 g of 4-methylphenacyl bromide in 7.5 ml of xylene. It was heated at 165° C. for 3 h. The mixture was cooled followed by addition of 50 ml of ethyl acetate. It was washed with 2N hydrochloric acid, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The residue was purified via repeated column chromatography on silica gel using a hexane dichloromethane gradient (100:0 to 50:50). The title compound thus obtained was recrystallized from hexane.

reactant | 4-trifluoromethoxyaniline | 30 mmol, 5.3 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | 4-methylphenacyl bromide | 4.3 g | CC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-diethylaniline | 8 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | xylene | 7.5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-Methylphenyl)-5-trifluoromethoxy-1H-indole | CC1=CC=C(C=C1)C=1NC2=CC=C(C=C2C1)OC(F)(F)F | C16H12F3NO
